US07795453B2
6-Amino-N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-1-benzofuran-2-carboxamide
1.55 g (4.92 mmol) of N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-6-nitro-1-benzofuran-2-carboxamide are dissolved in 15 ml of 2 M tin(II) chloride solution in DMF and stirred at room temperature overnight. Dowex 50WX2-200 ion exchanger resin is added and, within 1 h, the mixture is concentrated in a rotary evaporator. The resin is washed successively with water, DMF, methanol, dichloromethane, methanol and 10% triethylamine in methanol. The product fraction is concentrated and chromatographed on silica gel (mobile phase: dichloromethane/methanol/triethylamine). Concentration in vacuo results in 642.8 mg (45.8% of theory) of the title compound.

reactant | N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-6-nitro-1-benzofuran-2-carboxamide | 4.92 mmol, 1.55 g | N12C[C@@H](C(CC1)CC2)NC(=O)C=2OC1=C(C2)C=CC(=C1)[N+](=O)[O-] | C16H17N3O4
solvent | tin(II) chloride | 2 M, 15 ml | [Sn](Cl)Cl
solvent | DMF | CN(C)C=O | C3H7NO
product | 6-Amino-N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-1-benzofuran-2-carboxamide | NC1=CC2=C(C=C(O2)C(=O)N[C@H]2CN3CCC2CC3)C=C1 | C16H19N3O2
